### ISSUE TITLE
RFC: No implicit sections in `$cmd in $cmd` and non-atomic declaration names

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#9341]
The current implementation of command-scoped options (`set_option … in $cmd`) and declarations with non-atomic names (`def Foo.a := …`) are by expansion to `section; set_option …; $cmd end` resp. `namespace Foo; def a := …; end`. This implicit opening and closing of `section` causes unexpected interaction with other feature, in particular local attributes (`@[local foo]`), so that in
```
set_option linter.unusedVariable false in
@[local grind] theorem foo := …
```
or
```
@[local grind] theorem Foo.bar := …
```
the attribute would not be visible afterwards.

This regularly and understandably confuses users. Therefore it seems desirable to avoid this footgun:

* ```
  set_option $opt $val in $cmd
  ```
  should set the option before elaborating the command, and reset it to the value it it had before afterwards, but otherwise not reset other parts of the environment.

* Same for `open Namespace in …`

* ```
  theorem Foo.bar := …
  ```
  should open the namespace `Foo` during elaboration of the command, as now, but not using the `namespace` command which also acts like a `section`.

* For recursive declarations, the waters are quite muddy.
  
  It seems that a `namespace` command is introduced only for the common prefix of names in the mutual group. So `mutual def Foo.a := … ; def Bar.a := …` will not open the namespace for `Foo` or `Bar`. Users would expect that the appropriate namespace is opened during elaboration of each of the commands. Maybe implementing this RFC will require a refactoring that makes this possible.

  It also seems that a `mutual` … `end` block produces an implicit section block whenever one of these commands appear in it:
  ```
  private def isMutualPreambleCommand (stx : Syntax) : Bool :=
    let k := stx.getKind
    k == ``Lean.Parser.Command.variable ||
    k == ``Lean.Parser.Command.universe ||
    k == ``Lean.Parser.Command.check ||
    k == ``Lean.Parser.Command.set_option ||
    k == ``Lean.Parser.Command.open
  ```
  Fixing this implicit `section` is probably harder. 

* Lean actually allows arbitrary `$cmd in $cmd`, for example
  ```
  example : True := by simp in
  @[local simp] axiom a : A ↔ True 
  ```
  This is sometimes silly (as in this case) and sometimes used for good effect (as in `variable … in …`).

  This is again hard to address. Most plausible by identifying all commands that make sense to be combined with `in` and implementing them without `section`.

Hmm, maybe this needs more thought than I thought when I started writing this. Too bad that there are no “draft issues”

### MWE

```
axiom A : Prop

@[simp] def Foo.T := True
@[simp] def Bar.T := True

namespace ex0
@[local simp] axiom a : A ↔ True 
example : A := by simp
end ex0

namespace ex1
set_option linter.unusedVariables false in
@[local simp] axiom a : A ↔ True 
example : A := by simp -- fails
end ex1

namespace ex2
open Nat in
@[local simp] axiom a : A ↔ True 
example : A := by simp -- fails
end ex2

namespace ex3
@[local simp] axiom Foo.a : A ↔ True
example : A := by simp -- fails
end ex3

namespace ex4
@[local simp] axiom _root_.Foo.a : A ↔ True
example : A := by simp -- works??
end ex4

namespace ex5
mutual
@[local simp] theorem Foo.a : A ↔ True := sorry
end
example : A := by simp -- fails
end ex5

namespace ex6
mutual
@[local simp] theorem a : A ↔ True := sorry
end
example : A := by simp -- works
end ex6

namespace ex7
mutual
open Nat
@[local simp] theorem a : A ↔ True := sorry
end
example : A := by simp -- fails
end ex7

namespace ex8
mutual
@[local simp] theorem Foo.a : A ↔ True := sorry
theorem Bar.b : A ↔ True := sorry
end
example : A := by simp -- works (no common namespace)
end ex8

namespace ex9
example : True := by simp in
@[local simp] axiom a : A ↔ True 
example : A := by simp
end ex9
```

### Work-around

Until this is implemented, a work-around can be
```
theorem Foo.bar := …
attribute [local grind]  Foo.bar
```
or, it seems,
```
@[local grind] theorem _root_.Foo.bar := …
```
### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others benefit from the changes in this proposal being added, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
I put the “smaller proposal” at https://github.com/leanprover/lean4/issues/9445, its more plausible.
